OpenCircuit factory test: 2N3906 output sanity
* OpenCircuit Model Factory v0.1.0
* Original work generated from public factual specifications.
* This model is not a copy of, or adaptation from, any vendor SPICE model.
* Source: https://www.onsemi.com/pub/Collateral/2N3906-D.PDF
* Revision: Rev. 4, February 2010
* Fit: native ngspice-46 in scipy.optimize.least_squares, diff_step=1e-4
.model OC_ONSEMI_2N3906 PNP(IS=1.4835710503e-14 NF=1.0000000000e0 BF=6.3313975569e2 IKF=3.0356554704e-2 ISE=7.7401300644e-14 NE=1.3849978060e0 VAF=1.0000000000e2 BR=4.0000000000e0 RB=5.7152212589e0 RE=1.0000001166e-4 RC=3.2182964551e0 CJE=1.1836139835e-11 VJE=7.5000000000e-1 MJE=3.3000000000e-1 CJC=8.8131809209e-12 VJC=7.5000000000e-1 MJC=3.3000000000e-1 XCJC=1.0000000000e0 TF=5.5520203140e-10 TR=0 FC=0.5 EG=1.11 XTI=3 TNOM=27)

.temp 25
VCE1 c1 0 DC -2
IB1 0 b1 DC -0.00001
Q1 c1 b1 0 OC_ONSEMI_2N3906
VCE2 c2 0 DC 10
IB2 0 b2 DC 50u
Q2 c2 b2 0 OC_ONSEMI_2N3906
.op
.end
